US07241785B2
A mixture of methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-thiazolyl]propionate (350 mg), 4-chloromethyl-5-methyl-2-phenyloxazole (196 mg), potassium carbonate (260 mg) and N,N-dimethylformamide (4 ml) was stirred at 50° C. for 2 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionate (400 mg, yield 78%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-thiazolyl]propionate | 350 mg | OC1=CC=C(C=C1)SC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C19H17NO3S2
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 196 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | potassium carbonate | 260 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenylthio]-4-phenyl-5-thiazolyl]propionate | 400 mg, yield 78% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)SC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C30H26N2O4S2
